US04460579
Chloro(4-phenylbutyl)phosphinic acid, ethyl ester is reacted with (R)-dihydro-5-amino-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, trimethylsilylethyl ester according to the procedure of Example 1(f) to yield (R)-dihydro-5-[[ethoxy(4-phenylbutyl)phosphinyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, trimethylsilylethyl ester.

reactant | Chloro(4-phenylbutyl)phosphinic acid, ethyl ester | ClP(OCC)(=O)CCCCC1=CC=CC=C1 | C12H18ClO2P
reactant | (R)-dihydro-5-amino-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, trimethylsilylethyl ester | NC1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC[Si](C)(C)C)=O | C17H26N2O3SSi
product | (R)-dihydro-5-[[ethoxy(4-phenylbutyl)phosphinyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, trimethylsilylethyl ester | C(C)OP(=O)(CCCCC1=CC=CC=C1)NC1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC[Si](C)(C)C)=O | C29H43N2O5PSSi
